US07141586B2
6-(allyloxy)-1,3-benzoxathiol-2-one
Allyl bromide (28.3 ml, 0.327 mol) was added to a mixture of tioxolone (50 g, 0.297 mol) and potassium carbonate (82 g, 0.595 mol) in acetone (300 ml), and the resultant suspension stirred at RT overnight. After removal of the solvent in vacuo, the residue was partioned between EtOAc (700 ml) and water (500 ml). The aqueous phase was removed, extracted with further EtOAc (2×300 ml), and the combined organics dried over MgSO4 and concentrated to an off-white solid (66.6 g). Purification by flash column chromatography on silica eluting with EtOAc:pentane (1:39 to 1:9) gave the title compound as a white solid (48.3 g, 0.23 mol).

reactant | Allyl bromide | 0.327 mol, 28.3 ml | C(C=C)Br | C3H5Br
reactant | tioxolone | 0.297 mol, 50 g | C1=CC2=C(C=C1O)OC(=O)S2 | C7H4O3S
reactant | potassium carbonate | 0.595 mol, 82 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 6-(allyloxy)-1,3-benzoxathiol-2-one | 0.23 mol, 48.3 g | C(C=C)OC1=CC2=C(SC(O2)=O)C=C1 | C10H8O3S
